US09428500B2
2-benzyl-5-bromo-1,3-dimethoxybenzene
(4-bromo-2,6-dimethoxyphenyl)(phenyl)methanone (87 mg, 0.271 mmol) was solubilized and stirred into a mixture of trifluoroacetic acid (250 μL, 12 eq) and triethylsilane (260 μL, 6 eq) heated at 80° C. for 15 h. After cooling to r.t., 20 mL of DCM were added to the reaction mixture. The organic layer was washed with a saturated NaHCO3 solution (2×20 mL), with brine, dried over MgSO4, filtered and concentrated in vacuo. The crude residue was purified by silica gel flash chromatography (cyclohexane/AcOEt 95:5) to afford the reduced compound in 98% yield (81.4 mg) as a white solid. 1H NMR (300 MHz, CDCl3) δ 7.28-7.21 (m, 4H), 7.20-7.12 (m, 1H), 6.73 (s, 2H), 3.98 (s, 2H), 3.81 (s, 6H); 13C NMR (75 MHz, CDCl3) δ 158.77 (2C), 141.23 (C), 128.57 (2CH), 128.14 (2CH), 125.63 (CH), 120.45 (C), 116.86 (C), 107.71 (2CH), 56.04 (2OCH3), 28.58 (CH2); MS (ESI) m/z: 307.4, 309.0 [M+H, 79Br, 81Br]+; 324.1, 326.1 [M+NH4, 79Br, 81Br]+.

reactant | (4-bromo-2,6-dimethoxyphenyl)(phenyl)methanone | 0.271 mmol, 87 mg | BrC1=CC(=C(C(=C1)OC)C(=O)C1=CC=CC=C1)OC | C15H13BrO3
reactant | trifluoroacetic acid | 250 μL, 12 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 260 μL, 6 eq | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-benzyl-5-bromo-1,3-dimethoxybenzene | 98% yield | C(C1=CC=CC=C1)C1=C(C=C(C=C1OC)Br)OC | C15H15BrO2
